US09359359B2
A solution of 2-(3-methoxyphenyl)-4-methyloxazole (1.1 g, 5.79 mmol) in aqueous hydrogen bromide (10 mL, 48% w/w) was heated to 100° C. for 16 h. The mixture was concentrated to give 3-(4-methyloxazol-2-yl)phenol (0.97 g, crude), which was used without purification. LCMS MH+ 176.

reactant | 2-(3-methoxyphenyl)-4-methyloxazole | 5.79 mmol, 1.1 g | COC=1C=C(C=CC1)C=1OC=C(N1)C | C11H11NO2
solvent | hydrogen bromide | 10 mL | Br | BrH
product | 3-(4-methyloxazol-2-yl)phenol | 0.97 g | CC=1N=C(OC1)C=1C=C(C=CC1)O | C10H9NO2
